US07507728B2
b) 9-Bromo-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one
To a solution of (4-bromo-2-cyano-phenyl)-carbamic acid ethyl ester (40.4 g, 150 mmol) in NMP (170 mL) was added formylhydrazine (10.0 g, 150 mmol). The resulting mixture was stirred for 1.5 h at 160° C. under a gentle nitrogen sweep. It was cooled to below 100° C. and water (340 mL) was added slowly. The resulting slurry was cooled to 25° C. and stirred for 15 min. The solid was collected by filtration and washed with water and 2-propanol. Drying in vacuo afforded the title compound (32.4 g, 81%) as a light yellow solid. MS: m/e 264.9/267.0 [M+H+].

reactant | (4-bromo-2-cyano-phenyl)-carbamic acid ethyl ester | 150 mmol, 40.4 g | C(C)OC(NC1=C(C=C(C=C1)Br)C#N)=O | C10H9BrN2O2
reactant | formylhydrazine | 150 mmol, 10.0 g | C(=O)NN | CH4N2O
reactant | water | 340 mL | O | H2O
reactant | NMP | 170 mL | CN1CCCC1=O | C5H9NO
product | 9-Bromo-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | 32.4 g, 81% | BrC1=CC=2C=3N(C(NC2C=C1)=O)N=CN3 | C9H5BrN4O
